US06417212B1
A mixture of 3-phenethyl-4-[2-(5-methyl-2-biphenyl-4-yl-oxazole-4-yl)ethoxy]phenol (0.90 mmol), ethyl 2-bromo-2-methylpropanoate (2.25 mmol) and cesium carbonate (0.45 g, 1.38 mmol) in anhydrous DMF (4 mL) was heated for 24 h at 55° C. The mixture was concentrated in vacuo, and the residue was partitioned between ethyl acetate (50 mL) and water (40 mL), washed with brine, dried (Na2SO4), and removed in vacuo to give a crude oil which was purified using radial chromatography eluting with 2% ethyl acetate/dichloromethane to give 2-{4-[2-(2-Biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-3-phenethylphenoxy}-2-methylpropionic acid ethyl ester. 1H NMR (400 MHz, CDCl3) δ8.03 (d, J=8.3 Hz, 2H), 7.64 (t, J=8.3 Hz, 4H), 7.46 (t, J=7.6 Hz, 2H), 7.37 (t, J=7.3 Hz, 1H), 7.26-7.17 (m, 2H), 7.13 (dd, J=12.3, 7.3 Hz, 3H), 4.24-4.19 (m, 4H), 2.98 (t, J=6.6 Hz, 2H), 2.81 (s, 4H), 2.32 (s, 3H), 1.48 (s, 6H). 1.27 (t, J=7.1 Hz, 3H), MS (ES) m/e 590 (M+1).

reactant | 3-phenethyl-4-[2-(5-methyl-2-biphenyl-4-yl-oxazole-4-yl)ethoxy]phenol | 0.90 mmol | C(CC1=CC=CC=C1)C=1C=C(C=CC1OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)O | C32H29NO3
reactant | ethyl 2-bromo-2-methylpropanoate | 2.25 mmol | BrC(C(=O)OCC)(C)C | C6H11BrO2
reactant | cesium carbonate | 1.38 mmol, 0.45 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-{4-[2-(2-Biphenyl-4-yl-5-methyloxazol-4-yl)ethoxy]-3-phenethylphenoxy}-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=C(C=C1)OCCC=1N=C(OC1C)C1=CC=C(C=C1)C1=CC=CC=C1)CCC1=CC=CC=C1)=O | C38H39NO5
